US08222262B2
Sodium hydride (1.2 g, 30.9 mmol) was added to a solution of N-(4-chloro-phenyl)-formamide (4 g, 25.7 mmol) in N,N-dimethylformamide (40 mL) and stirred for 15 minutes. 2,6-Difluoropyridine (2.96 g, 25.7 mmol) was added, the reaction mixture was stirred at 70° C. overnight and poured into a stirred ice-water solution. The resulting participate was filtrated off and dried to give (4-chloro-phenyl)-(6-fluoro-pyridin-2-yl)-amine (5.95 g) as the crude product. The crude product was used without further purification.

reactant | Sodium hydride | 30.9 mmol, 1.2 g | [H-].[Na+]
reactant | N-(4-chloro-phenyl)-formamide | 25.7 mmol, 4 g | ClC1=CC=C(C=C1)NC=O | C7H6ClNO
reactant | 2,6-Difluoropyridine | 25.7 mmol, 2.96 g | FC1=NC(=CC=C1)F | C5H3F2N
solvent | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | (4-chloro-phenyl)-(6-fluoro-pyridin-2-yl)-amine | 5.95 g | ClC1=CC=C(C=C1)NC1=NC(=CC=C1)F | C11H8ClFN2
